US06743920B2
N4-(2-Methylpropyl)-6-methyl-2-phenoxypyridin-3,4-diamine
N-(2-Methylpropyl)-6-methyl-3-nitro-2-phenoxypyridin-4-amine (530 g) from Part C was dissolved in warm toluene (2.5 L). 5% Platinum on carbon (50 g) wetted with toluene was added to the resulting solution under a nitrogen atmosphere. The resulting mixture was placed in a hydrogenator, flushed multiple times with hydrogen, and filled to a hydrogen pressure of 345 kPa. The reaction was monitored by TLC and HPLC. The reaction mixture turned warn after 30 minutes, and was allowed to cooled to room temperature over 3 hours. The reaction was complete, and the resulting reaction mixture was filtered through a CELITE pad, washed with hot toluene (2 L). The CELITE pad was also washed with isopropyl alcohol. The solvent was removed from the filtrate under reduced pressure, and the resulting black oil was dissolved in dichloromethane. The resulting solution was washed with water (3×1 L), dried with magnesium sulfate, and concentrated under reduced pressure to a green solid (427 g). NMR analysis of the solid indicated sufficient purity for carrying the product on to the next step.

reactant | N-(2-Methylpropyl)-6-methyl-3-nitro-2-phenoxypyridin-4-amine | 530 g | CC(CNC1=C(C(=NC(=C1)C)OC1=CC=CC=C1)[N+](=O)[O-])C | C16H19N3O3
solvent | toluene | 2.5 L | C1(=CC=CC=C1)C | C7H8
catalyst | Platinum on carbon | 50 g | [Pt] | Pt
product | N4-(2-Methylpropyl)-6-methyl-2-phenoxypyridin-3,4-diamine | CC(CNC1=C(C(=NC(=C1)C)OC1=CC=CC=C1)N)C | C16H21N3O
